US06511974B1
{4-[1-(2,4-Dichloro-benzoyl)-1H-pyrazol-3-yl]-phenyl}-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone
In the manner of Example 32, employing [4-(1H-pyrazol-3-yl)-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone (0.71 g) in dry pyridine (20 ml) and 2,4-dichlorobenzoyl chloride (0.52 g), the title compound (0.66 g) was obtained as a crystalline solid, m.p. 180-182° C.; MS, m/z: 528 (M)+.

reactant | [4-(1H-pyrazol-3-yl)-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone | 0.71 g | N1N=C(C=C1)C1=CC=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C22H18N4O
reactant | 2,4-dichlorobenzoyl chloride | 0.52 g | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | {4-[1-(2,4-Dichloro-benzoyl)-1H-pyrazol-3-yl]-phenyl}-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone | 0.66 g | ClC1=C(C(=O)N2N=C(C=C2)C2=CC=C(C=C2)C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=CC(=C1)Cl | C29H20Cl2N4O2
